US05670521
1-(3,4-Dimethoxyphenylacetyl)-2-(2,2-diphenylethyl)piperidine
A solution of 2.65 g (0.01M) of 2-(2,2-diphenylethyl)piperidine in 25 ml of methylene chloride containing 1.5 ml of triethylamine was cooled in ice and a solution of 2.35 g (0.011M) of 3,4-di-methoxyphenylacetyl chloride in 25 ml of methylene chloride was added dropwise. The cooling bath was removed and the mixture was stirred at room temperature overnight. The mixture was then washed with dilute hydrochloric acid, water, dilute sodium hydroxide and saturated sodium chloride solution. Removal of the solvent left an oil which was purified by chromatography on silica gel. The solid thus obtained melted at 113°-114° C. after recrystallization from cyclohexane-ethyl acetate.

reactant | 2-(2,2-diphenylethyl)piperidine | 0.01M, 2.65 g | C1(=CC=CC=C1)C(CC1NCCCC1)C1=CC=CC=C1 | C19H23N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3,4-di-methoxyphenylacetyl chloride | 0.011M, 2.35 g | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Dimethoxyphenylacetyl)-2-(2,2-diphenylethyl)piperidine | COC=1C=C(C=CC1OC)CC(=O)N1C(CCCC1)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H33NO3
